US08404915B2
To a well stirred suspension of lithiumaluminium hydride (266.0 mg, 7.0 mmol) in 50 mL of ether was added dropwise a solution of 2-methoxyphenyl-phenylchlorophosphine (3.20 g, 12.8 mmol) in 10 mL ether. Reaction was heated under reflux for 12 hrs and then allowed to cool to room temperature (ca. 20° C.). The excess of hydride was destroyed by the careful addition (dropwise) of 30 mL of water. Organic phase was separated and the aqueous phase was extracted with ether (2×60 mL). The organic layers were combined, dried over MgSO4 and concentrated to give 2.2 g (82%) of 2-methoxyphenyl-phenylphosphine.

reactant | lithiumaluminium hydride | 7.0 mmol, 266.0 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2-methoxyphenyl-phenylchlorophosphine | 12.8 mmol, 3.20 g | COC1=C(C=CC=C1)P(Cl)C1=CC=CC=C1 | C13H12ClOP
solvent | ether | 50 mL | CCOCC | C4H10O
solvent | ether | 10 mL | CCOCC | C4H10O
product | 2-methoxyphenyl-phenylphosphine | 2.2 g, 82% | COC1=C(C=CC=C1)PC1=CC=CC=C1 | C13H13OP
